US07074837B2
2-[1-(Hydroxymethyl)cyclopropyl-2-{[(1S)-1-phenylethyl]amino}acetonitrile
To an ethanol (4.9 mL) solution of 1-(hydroxymethyl)cyclopropane carboaldehyde (683 mg, 6.82 mmol) were added water (2.1 mL), (S)-(−)-1-phenylethylamine (0.94 mL, 7.50 mmol), potassium cyanide (489 mg, 7.50 mmol) and sodium bisulfite (1.45 g, 13.6 mmol). The mixture was stirred at 50° C. for 30 minutes. After cooling to 0° C., a saturated aqueous solution of sodium bicarbonate was added to terminate the reaction, followed by extraction with ethyl acetate. The organic layer was washed with water and then dried over magnesium sulfate. The solvent was and evaporated under reduced pressure, whereby the title compound was obtained as a pale yellow oil (1.55 g, crude product).

reactant | 1-(hydroxymethyl)cyclopropane carboaldehyde | 6.82 mmol, 683 mg | OCC1(CC1)C=O | C5H8O2
reactant | (S)-(−)-1-phenylethylamine | 7.50 mmol, 0.94 mL | C1(=CC=CC=C1)[C@H](C)N | C8H11N
reactant | potassium cyanide | 7.50 mmol, 489 mg | [C-]#N.[K+]
reactant | sodium bisulfite | 13.6 mmol, 1.45 g | S([O-])(O)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 2.1 mL | O | H2O
solvent | ethanol | 4.9 mL | C(C)O | C2H6O
product | 1-(Hydroxymethyl)cyclopropyl-2-{[(1S)-1-phenylethyl]amino}acetonitrile | OCC1(CC1)C(C#N)N[C@@H](C)C1=CC=CC=C1 | C14H18N2O
